US06399629B1
(D) trans-4-(3-Biphenyloxy)-L-Proline 2-Aminoethylamide
trans-4-(3-Biphenyloxy) N-tert-butoxycarbonyl-L-proline 2-(N-tert-butoxycarbonylamino)ethylamide (C, 175 mg) was dissolved in 4 N hydrogen chloride in 1,4-dioxane (3 mL). After stirring for 2 hr, the reaction mixture was evaporated in vacuo to give a white solid. The solid was washed with ether to afford the titled compound (118 mg): 1H NMR (400 MHz, D2O) δ 2.43 (m, 1H), 2.83 (m, 1H), 3.22 (m, 2H), 3.57 (m, 1H), 3.66 (m, 1H), 4.69-4.84 (m, 3H), 5.44 (m, 1H), 7.08 (d, J=8.3 Hz, 1H), 7.32 (s, 1H), 7.43 (d, J=7.8 Hz, 1H), 7.46-7.58 (m, 4H), and 7.73 (m, 2H).

reactant | trans-4-(3-Biphenyloxy) N-tert-butoxycarbonyl-L-proline 2-(N-tert-butoxycarbonylamino)ethylamide | 175 mg | C(C)(C)(C)OC(=O)NCCNC([C@H]1N(C[C@@H](C1)OC=1C=C(C=CC1)C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C29H39N3O6
solvent | hydrogen chloride | 4 N | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | trans-4-(3-Biphenyloxy)-L-Proline 2-Aminoethylamide | 118 mg | NCCNC([C@H]1NC[C@@H](C1)OC=1C=C(C=CC1)C1=CC=CC=C1)=O | C19H23N3O2
